US07244734B2
To a suspension of (3R,9aR)-2-[3,5-bis(trifluoromethyl)benzoyl]-3-(1H-indol-3-ylmethyl)-octahydro-2H-pyrido[1,2-a]pyrazin-7-one (12.0 g), triethylamine (2.93 g), and 4-dimethylaminopyridine (600 mg) in acetonitrile (125 ml) was added drop wise a solution of di-tert-butyl dicarbonate (6.4 g) in acetonitrile (50 ml), at room temperature. The resulting mixture was stirred at room temperature for 2.5 h, and concentrated in vacuo. The residue was dissolved in dichloromethane washed with aqueous sodium bicarbonate (5%), dried, filtered and concentrated in vacuo, and purified by flash-chromatography (SiO2, CH2Cl2/MeOH 98.5:1.5) to afford (3R,9aR)-3-[2-(3,5-bis(trifluoromethyl)benzoyl)-7-oxo-octahydro-pyrido[1,2-a]pyrazin-3-ylmethyl]-indole-1-carboxylic acid tert-butyl ester (11 g). Rf 0.46 (SiO2, CH2Cl2/MeOH 95:5).

reactant | (3R,9aR)-2-[3,5-bis(trifluoromethyl)benzoyl]-3-(1H-indol-3-ylmethyl)-octahydro-2H-pyrido[1,2-a]pyrazin-7-one | 12.0 g | FC(C=1C=C(C(=O)N2C[C@@H]3N(C[C@H]2CC2=CNC4=CC=CC=C24)CC(CC3)=O)C=C(C1)C(F)(F)F)(F)F | C26H23F6N3O2
reactant | triethylamine | 2.93 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 6.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 600 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (3R,9aR)-3-[2-(3,5-bis(trifluoromethyl)benzoyl)-7-oxo-octahydro-pyrido[1,2-a]pyrazin-3-ylmethyl]-indole-1-carboxylic acid tert-butyl ester | 11 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C[C@H]1N(C[C@@H]2N(C1)CC(CC2)=O)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O | C31H31F6N3O4
